US08431545B2
1.87 g of stearic acid was dissolved in 50 ml of dichloromethane, to which 0.76 g of N-hydroxysuccinimide and 1.25 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added and stirred at room temperature for 24 hours. After the reaction, the solution was combined with 100 ml of water and subjected to liquid-liquid separation using a separatory funnel. The organic phase obtained was dehydrated with magnesium sulfate, and enriched using an evaporator. The enriched solution was added dropwise to 20 volumes of ethanol to form a white precipitate, which was collected by filtration and dried under reduced pressure to obtain N-succinimidyl stearate.

reactant | stearic acid | 1.87 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | N-hydroxysuccinimide | 0.76 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.25 g | Cl.C(C)N=C=NCCCN(C)C
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-succinimidyl stearate | CCCCCCCCCCCCCCCCCC(=O)ON1C(=O)CCC1=O | C22H39NO4
